US04822914
90 ml of Ethanolic hydrogen chloride is added dropwise to a stirred suspension of 9.00 g of 2-amino-α-phenyl-N-propylphenethylamine in 90 ml of triethylorthoacetate. After complete addition, the mixture is refluxed for 2 hours. The ethanol is slowly distilled from the mixture and additional ethanolic hydrogen chloride (50 ml) is added. The mixture is then distilled to a volume of 20-30 ml. 100 ml of ether is added causing precipitation of the hydrochloride salt. The salt is collected, washed with ether (100 ml) and dried to give white crystals, mp 272°-275° C. of 4,5-dihydro-2-methyl-4-phenyl-3-propyl-3H-1,3-benzodiazepine hydrochloride.

reactant | hydrogen chloride | 90 ml | Cl | ClH
reactant | 2-amino-α-phenyl-N-propylphenethylamine | 9.00 g | NC1=C(CC(C2=CC=CC=C2)NCCC)C=CC=C1 | C17H22N2
reactant | triethylorthoacetate | 90 ml | C(C)C(C([O-])([O-])[O-])(CC)CC
product | 4,5-dihydro-2-methyl-4-phenyl-3-propyl-3H-1,3-benzodiazepine hydrochloride | Cl.CC1=NC2=C(CC(N1CCC)C1=CC=CC=C1)C=CC=C2 | InChI=1S/C19H22N2.ClH/c1-3-13-21-15(2)20-18-12-8-7-11-17(18)14-19(21)16-9-5-4-6-10-16;/h4-12,19H,3,13-14H2,1-2H3;1H
